** sch_path: /foss/designs/PixelTB.sch
.subckt PixelTB

V1 VDD GND 1.8
I0 VDD net1 100n
V2 VINP GND 800m
x1 VDD vout VINP net2 net1 GND OTA
M1 net2 vout VOUT VDD pfet_03v3 L=1u W=1u nf=1 m=1
XC1 VOUT GND cap_mim_2f0fF c_width=1e-6 c_length=1e-6 m=1
I1 net2 GND 5n
M2 VOUT RST GND GND nfet_03v3 L=0.28u W=0.22u nf=1 m=1
V4 RST GND 0
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical



.param GND 2 Ival = 1n
I1 DC {Ival}

.control
save all

alter @v4[PULSE] = [ 0 1.8 0 1e-5 1e-5 5e-4 1e-3 0 ]

.step param Ival 1n 25n 1n
run
tran 1e-6 2e-3
plot v(VOUT)
.endc


**** end user architecture code
.ends

* expanding   symbol:  pixel/OTA.sym # of pins=6
** sym_path: /foss/designs/pixel/OTA.sym
** sch_path: /foss/designs/pixel/OTA.sch
.subckt OTA VDD VOUT VINP VINN IREF GND
*.PININFO VINP:B VINN:B GND:B IREF:B VDD:B VOUT:B
M2 VOUT net2 VDD VDD pfet_03v3 L=1u W=1u nf=1 m=1
M4 net2 net2 VDD VDD pfet_03v3 L=1u W=1u nf=1 m=1
M1 VOUT VINP net1 GND nfet_03v3 L=1u W=0.9u nf=1 m=1
M3 net2 VINN net1 GND nfet_03v3 L=1u W=0.9u nf=1 m=1
M8 net1 IREF GND GND nfet_03v3 L=4u W=1u nf=1 m=1
M6 IREF IREF GND GND nfet_03v3 L=4u W=1u nf=1 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
